US07514566B2
To a 250 mL round bottom flask was added crude (S)-2-(dibenzylamino)-3-(4-(trifluoromethyl)phenyl)propanoic acid, DMF (700 mL), N,O-dimethylhydroxylamine hydrochloride (25.3 g, 259 mmol), TEA (36.0 mL, 259 mmol), 3H-[1,2,3]triazolo[4,5-b]pyridin-3-ol (17.6 g, 130 mmol), and 1,3-dicyclohexylcarbodiimide (26.7 g, 130 mmol) at 0° C. The mixture was allowed to warm to room temperature. After 18 hours, the mixture was diluted with 1 L ether, and the precipitate was filtered through a coarse scintered glass funnel washing with ether. The filtrate was washed with brine (4×200 mL) and the organic layer was again passed through a coarse scintered glass funnel. The aqueous layer was extracted with ether (200 mL), and the combined ether layers were washed with brine (100 mL) and passed through a coarse scintered glass funnel. The organic layers were dried over sodium sulfate and evaporated providing a cloudy yellow oil. The oil was passed through a medium scintered glass funnel washing with ether, and the filtrate was evaporated to provide a clear yellow oil. The crude product was loaded onto a 1.5 kg silica gel column in hexane and eluted at 400 mL/minute 0% to 70% EtOAc in hexane to provide (S)-2-(dibenzylamino)-N-methoxy-N-methyl-3-(4-(trifluoromethyl)phenyl)propanamide (26.52 g, 67.3% yield) as a light yellow oil. LCMS (ES+) m/z=457.3 (M+H). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.50 (dt, J=3.67, 1.79 Hz, 3H) 3.09-3.19 (m, 3H) 3.31 (s, 3H) 3.68-3.76 (m, 2H) 3.77-3.85 (m, 2H) 7.16-7.34 (m, 12H) 7.63 (d, J=8.22 Hz, 2H).

reactant | (S)-2-(dibenzylamino)-3-(4-(trifluoromethyl)phenyl)propanoic acid | C(C1=CC=CC=C1)N([C@H](C(=O)O)CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=CC=C1 | C24H22F3NO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 259 mmol, 25.3 g | Cl.CNOC
reactant | 3H-[1,2,3]triazolo[4,5-b]pyridin-3-ol | 130 mmol, 17.6 g | N1=NN(C2=NC=CC=C21)O | C5H4N4O
reactant | 1,3-dicyclohexylcarbodiimide | 130 mmol, 26.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ether | 1 L | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | DMF | 700 mL | CN(C)C=O | C3H7NO
product | (S)-2-(dibenzylamino)-N-methoxy-N-methyl-3-(4-(trifluoromethyl)phenyl)propanamide | 26.52 g, 67.3% yield | C(C1=CC=CC=C1)N([C@H](C(=O)N(C)OC)CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=CC=C1 | C26H27F3N2O2
